US05356966
A mixture of 18.3 g (0.15 mol) of 2,4-dimethylphenol and 11.3 g (0.05 mol) of 4-carboxymethoxymandelic acid is stirred at about 185° C. for 3.5 hours. Excess 2,4-dimethylphenol is then distilled off in a high vacuum. 12.5 g (0.046 mol) of 1-octadecanol and 0.3 g (1.58 mmol) of p-toluenesulfonic acid are added to the residue, and the mixture is maintained at about 185° C. under a slight vacuum (50 mbar) for 1.5 hours. The reaction mixture is diluted with 50 ml of toluene and washed with water. The organic phases are combined, dried over magnesium sulfate and concentrated on a vacuum rotary evaporator. Crystallisation of the residue from acetonitrile gives 9.9 g (38%) of 5,7-dimethyl-3-(4-n-octadecyloxycarbonylmethoxyphenyl)benzofuran-2-one, melting point 57°-59° C. (Compound (109), Table 1).

reactant | 2,4-dimethylphenol | 0.15 mol, 18.3 g | CC1=C(C=CC(=C1)C)O | C8H10O
reactant | 4-carboxymethoxymandelic acid | 0.05 mol, 11.3 g | C(=O)(O)COC1=CC=C(C(C(=O)O)O)C=C1 | C10H10O6
reactant | 1-octadecanol | 0.046 mol, 12.5 g | C(CCCCCCCCCCCCCCCCC)O | C18H38O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 1.58 mmol, 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 5,7-dimethyl-3-(4-n-octadecyloxycarbonylmethoxyphenyl)benzofuran-2-one | 9.9 g, 38% | CC=1C=C(C2=C(C(C(O2)=O)C2=CC=C(C=C2)OCC(=O)OCCCCCCCCCCCCCCCCCC)C1)C | C36H52O5
